US09359340B2
A mixture solution of lithium hydroxide (374 mg, 15.6 mmol) in H2O (60 mL) and 30% hydrogen peroxide (1.60 mL, 15.6 mmol) was added dropwise to a solution of tert-butyl (S)-3-((R)-4-benzyl-2-oxooxazolidin-3-yl)-2-(5-chlorothiophen-2-yl)-3-oxopropyl(isopropyl)carbamate (7.54 g, 14.9 mmol) in THF (150 mL) at −5° C. The mixture was stirred at −5° C. After 10 minutes, the reaction was quenched with 10% Na2SO3 (16 mL) at −5° C. and stirred at room temperature for 30 minutes. The THF was removed in vacuo. The aqueous layer was acidified with 1M NaH2PO4 and extracted with DCM (3×100 mL). The combined organics were dried (Na2SO4), filtered and concentrated to give (S)-3-(tert-butoxycarbonyl(isopropyl)amino)-2-(5-chlorothiophen-2-yl)propanoic acid which was used in the next step without purification. MS (APCI+) [M+H] +348.2.

reactant | lithium hydroxide | 15.6 mmol, 374 mg | [OH-].[Li+]
reactant | hydrogen peroxide | 15.6 mmol, 1.60 mL | OO | H2O2
reactant | tert-butyl (S)-3-((R)-4-benzyl-2-oxooxazolidin-3-yl)-2-(5-chlorothiophen-2-yl)-3-oxopropyl(isopropyl)carbamate | 14.9 mmol, 7.54 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@H](CN(C(OC(C)(C)C)=O)C(C)C)C=1SC(=CC1)Cl)=O | C25H31ClN2O5S
solvent | H2O | 60 mL | O | H2O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | (S)-3-(tert-butoxycarbonyl(isopropyl)amino)-2-(5-chlorothiophen-2-yl)propanoic acid | C(C)(C)(C)OC(=O)N(C[C@@H](C(=O)O)C=1SC(=CC1)Cl)C(C)C | C15H22ClNO4S
